US06143764
6,7-Dimethoxy-4-(4-aminophenoxy)quinoline
6,7-Dimethoxy-4-(4-nitrophenoxy)quinoline (1.00 g) was dissolved in N,N-dimethylformamide/ethyl acetate (30 ml/15 ml), 10% palladium hydroxide-carbon (69 mg) was added, and the admixture was stirred at room temperature under hydrogen for 17 hours. The reaction mixture was filtered using Celite. The filtrate was washed with brine and then dried with anhydrous sodium sulfate. The solvent was removed by reduced-pressure distillation to obtain 799 mg of the title compound (yield: 88%).

reactant | 6,7-Dimethoxy-4-(4-nitrophenoxy)quinoline | 1.00 g | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)[N+](=O)[O-] | C17H14N2O5
solvent | N,N-dimethylformamide ethyl acetate | 30 ml | CN(C=O)C.C(C)(=O)OCC
catalyst | palladium hydroxide carbon | 69 mg | [OH-].[Pd+2].[OH-].[C]
product | 6,7-Dimethoxy-4-(4-aminophenoxy)quinoline | 799 mg, yield: 88% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)N | C17H16N2O3
